US04510139
A mixture of 15 g (0.052 mole) of N-(4-methoxyphenyl)isatoic anhydride and 10 ml (0.11 mole) of piperidine in 50 ml of dimethylformamide was stirred at room temperature for two hours. The reaction mixture was concentrated in vacuo and the residue recrystallized from 75 ml of isopropyl alcohol to give 13.8 g of 1-[2-(4-methoxyphenylamino)benzoyl]piperidine, colorless powder, m.p. 106°-108° C.

reactant | N-(4-methoxyphenyl)isatoic anhydride | 0.052 mole, 15 g | COC1=CC=C(C=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C15H11NO4
reactant | piperidine | 0.11 mole, 10 ml | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-methoxyphenylamino)benzoyl]piperidine | 13.8 g | COC1=CC=C(C=C1)NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C19H22N2O2
